US03937824
Preparation of 1-Chloro-2-[N-(2-methyl-4-methylthiophenyl)carbamoyloxy]-2-methoxyiminoethane
N-Methoxychloroacetamide (12.3 grams; 0.1 mole), benzene (60 ml) and dibutyltin dilaurate (1 drop) are charged into a glass reaction flask equipped with a mechanical stirrer, thermometer and reflux condenser. 2-Methyl-4-methylthiophenylisocyanate (21.5 grams; 0.12 mole) dissolved in benzene (30 ml) is incrementally added to the reaction mixture, with stirring, at room temperature. After the addition is completed the reaction mixture is heated at reflux for a period of about 2 hours. After this time the reaction mixture is distilled to remove benzene and unreacted starting material thereby yielding the desired product 1-chloro-2-[N-(2-methyl-4-methylthiophenyl)carbamoyloxy]-2-methoxyiminoethane.

reactant | N-Methoxychloroacetamide | 0.1 mole, 12.3 grams | CONC(CCl)=O | C3H6ClNO2
reactant | 2-Methyl-4-methylthiophenylisocyanate | 0.12 mole, 21.5 grams | CC1=C(C=CC(=C1)SC)N=C=O | C9H9NOS
catalyst | dibutyltin dilaurate | 1 drop | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 1-chloro-2-[N-(2-methyl-4-methylthiophenyl)carbamoyloxy]-2-methoxyiminoethane | ClCC(=NOC)OC(NC1=C(C=C(C=C1)SC)C)=O | C12H15ClN2O3S
